US06342765B1
A mixture of 2-thiazole carboxaldehyde (25 g, 221 mmol), triethylorthoformate (46 mls, 41 g, 276 mmol) and para-toluenesulphonic acid (1.52 g, 9 mmol) in ethanol (200 ml) was sured for 16 hours under a nitrogen atmosphere at ambient temperature. A further amount of para-toluenesulphonic acid (2 g, 11 mmol) was added and the reaction stirred for another 16 hours. The mixture was treated with sodium bicarbonate to pH 9, stirred for a further 5 minutes and then filtered and the filtrate evaporated to dryness to give 2-(1,1-diethoxymethyl)thiazole as a clear oil, which was used without flirher purification (41 g, 99%).

reactant | 2-thiazole carboxaldehyde | 221 mmol, 25 g | S1C(=NC=C1)C=O | C4H3NOS
reactant | triethylorthoformate | 276 mmol, 46 mls, 41 g | C(C)OC(OCC)OCC | C7H16O3
reactant | para-toluenesulphonic acid | 9 mmol, 1.52 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | para-toluenesulphonic acid | 11 mmol, 2 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | 2-(1,1-diethoxymethyl)thiazole | C(C)OC(OCC)C=1SC=CN1 | C8H13NO2S
